US07968563B2
2-Chloro-N-isobutyl-5,6-dimethyl-3-nitropyridin-4-amine (25.8 g, 100 mmol) was combined with 5% platinum on carbon (2.58 g) and ethyl acetate (200 mL) in a pressure vessel and hydrogenated at 50 psi (3.4×105 Pa) for 2.5 hours on a Parr apparatus. The reaction mixture was filtered through CELITE filter agent, which was rinsed with ethyl acetate and methanol afterwards. The filtrate was concentrated to give 2-chloro-N4-isobutyl-5,6-dimethylpyridine-3,4-diamine and was used directly in the next step.

reactant | 2-Chloro-N-isobutyl-5,6-dimethyl-3-nitropyridin-4-amine | 100 mmol, 25.8 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC(C)C)C)C | C11H16ClN3O2
catalyst | platinum on carbon | 2.58 g | [Pt] | Pt
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-N4-isobutyl-5,6-dimethylpyridine-3,4-diamine | ClC1=NC(=C(C(=C1N)NCC(C)C)C)C | C11H18ClN3
